### PR TITLE
Redefine (co)limits in terms of kan extensions

### PR DESCRIPTION
**Pull request by TOTBWF**
# Description

This PR refactors (co)limits to be defined in terms of kan extensions. The main motivation for doing so is to make preservation of limits less annoying to deal with; as it currently stands we need to define special functions for mapping cones, which makes life much harder.

## Notes

As noted on discord, representability does not work due to (annoying!) universe level issues.
This PR is also based off #184; I'll rebase when the time comes.

### CODE REVIEW

**Comment by TOTBWF** [comment]
When we get to RAPL/LAPC, we should probably prove the more general form where adjoints preserve kan extensions

**Comment by TOTBWF** [comment]
I can handle porting the limits/colimits to all be in terms of the abstract defn!

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 1]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+    module C = Cat.Reasoning C
+
+  record make-is-colimit
+    (Diagram : Functor J C) (coapex : C.Ob)
+    : Type (o₁ ⊔ h₁ ⊔ o₂ ⊔ h₂)
+    where
+    no-eta-equality
+    open Functor Diagram
+```
+-->A
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:101]: A

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 2]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+theorems for kan extensions for colimits. However, this also means
+that the definition is abstract: it makes working with colimits
+_in general_ easier, at the cost of making _specific_ colimits more
+difficult, as the data we actually care about has been obfuscated.
+
+For instance, it's quite hard to actually show that a specific object
+is a colimit of aa diagram, as you have to wrap all the relevant data
+in a few layers of abstraction. To work around this, we provide an
+auxiliary record type, `make-is-colimit`{.Agda}, which computes the
+appropriate left extension.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:84]:
```suggestion
As mentioned, our definition is very abstract, meaning we can directly
re-use definitions and theorems about Kan extensions in the setting of
colimits. The trade-off is that while working with colimits _in general_
is easier, working with _specific_ colimits becomes more difficult, as
the data we actually care about has been obfuscated.

One particularly egregious failure is... actually constructing colimits.
The definition in terms of `Lan`{.Agda} hides the concrete data behind a
few abstractions, which would be very tedious to write out each time. To
work around this, we provide an auxiliary record type,
`make-is-colimit`{.Agda}, as an intermediate step in constructing left
extensions.
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 3]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+  record make-is-colimit
+    (Diagram : Functor J C) (coapex : C.Ob)
+    : Type (o₁ ⊔ h₁ ⊔ o₂ ⊔ h₂)
+    where
+    no-eta-equality
+    open Functor Diagram
+```
+-->A
 
+First, we require morphisms from the every value to the diagram to
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:103]:
```suggestion
First, we require morphisms from the every value of the diagram to
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 4]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+the coapex; we call this family $\phi$. Moreover, if $f : x \to y$ is
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:104]:
```suggestion
the coapex; taken as a family, we call it $\phi$. Moreover, if $f : x \to y$ is
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 5]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+a morphism in the "shape" category $\cJ$, then $\psi y \circ Ff = \psi x$,
+IE: the $\psi$ family is actually natural.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:106]:
```suggestion
a morphism in the "shape" category $\cJ$, we require $\psi y \circ Ff = \psi x$,
which encodes the relevant naturality.
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 6]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
 ```
 
-If our diagram consisted of only objects, we would be done! However,
-some diagrams contain non-identity morphisms, so we need to take those
-into account as well. This bit is best understood through the lens of
-the coequaliser: in order to describe the commuting condition there,
-we want every injection map from the codomain of a morphism to
-factor through that morphism.
+The rest of the data ensures that $\psi$ is the universal family
+of maps iwth this property; if $\epsilon_j : Fj \to x$ is another natural
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:115]:
```suggestion
of maps with this property; if $\eps_j : Fj \to x$ is another natural
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 7]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+family, then each $\epsilon_j$ factors through the coapex by a _unique_
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:116]:
```suggestion
family, then each $\eps_j$ factors through the coapex by a _unique_
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 8]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
 
-Now that we've defined cocones, we need a way to figure out how to
-express universal properties. Like most things categorical, we begin
-by considering a "cocone morphism", which will give us a category
-that we can work within. The idea here is that a morphism of cocones
-is a morphism in $C$ between the coapicies, such that all of the
-injection maps commute.
+We also want to be able to use the interface of `make-is-colimit`{.Agda}
+when we have our hands on a colimit. To do this, we provide a function
+for *un*making a colimit.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:216]:
```suggestion
The concrete interface of `make-is-colimit`{.Agda} is also handy for
_consuming_ specific colimits. To enable this use case, we provide a
function which **un**makes a colimit.
```

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 9]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
 
 ```agda
-  open Cocone-hom
+  coapex : C.Ob
+  coapex = Ext .F₀ tt
+```
+
+Furthermore, we can show that the apex is the colimit, in the sense of
+`is-colimit`{.Agda}, of the diagram. You'd think this is immediate, but
+unfortunately proof assistants: `is-colimit`{.Agda} asks for _the_
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:309]:
```suggestion
unfortunately, proof assistants: `is-colimit`{.Agda} asks for _the_
```

Unfortunately, proof assistants always have a comma!

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 10]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+      nt : Ext => M
+      nt .η = σ′ .η
+      nt .is-natural x y f = ap (_ C.∘_) (Ext .F-id) ∙ σ′ .is-natural x y f
+
+  open is-colimit has-colimit public
 ```
 
-Now, we can define the category of cocones over a given diagram:
 
+# Uniqueness
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:341]: This is an instance of uniqueness of Lan, nay? Can't we reuse that? `Cat.Functor.Kan.Unique`

File: src/Cat/Diagram/Colimit/Cocone.lagda.md [hunk 11]
```diff
@@ -0,0 +1,192 @@
...
+  o ℓ o′ ℓ′ : Level
+
+open _=>_
+```
+-->
+
+# Colimits via Cocones
+
+As noted in the main page on [colimits], most introductory texts opt
+to define colimits via a categorical gadget called a **cocone**.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Cocone.lagda.md:25]:
```suggestion
As noted in the main page on [colimits], most introductory texts opt
to define colimits via categorical gadgets called **cocones**.
```

File: src/Cat/Diagram/Colimit/Cocone.lagda.md [hunk 12]
```diff
@@ -0,0 +1,192 @@
...
+    no-eta-equality
+    constructor cocone
+    field
+      coapex : C.Ob
+      ψ      : (x : J.Ob) → C.Hom (F.₀ x) coapex
+      commutes : ∀ {x y} (f : J.Hom x y) → ψ y C.∘ F.₁ f ≡ ψ x
+```
+
+As per usual, we define a helper lemma charaterizing the path space
+of cones:
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Cocone.lagda.md:51]:
```suggestion
of cocones:
```

File: src/Cat/Diagram/Colimit/Cocone.lagda.md [hunk 13]
```diff
@@ -0,0 +1,192 @@
...
+```
+
+## Cocone Maps
+
+Now that we've defined cocones, we need a way to figure out how to
+express universal properties. Like most things categorical, we begin
+by considering a "cocone morphism", which will give us a category
+that we can work within. The idea here is that a morphism of cocones
+is a morphism in $C$ between the coapicies, such that all of the
+injection maps commute.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Cocone.lagda.md:74]: This paragraph needs to be rewritten

File: src/Cat/Diagram/Colimit/Cocone.lagda.md [hunk 14]
```diff
@@ -0,0 +1,192 @@
...
+-->
+
+
+## Initial Cocones as Colimits
+
+A cocone over some diagram $F$ contains the same data as natural
+transformations from $F$ to a constant functor. This means that they
+contain all of the data of a colimit; the only other bit we need is
+the universal property. This can be obtained by defining a colimit to
+be the [initial] object in the category of cocones over $F$.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Cocone.lagda.md:142]:
```suggestion
A cocone over some diagram $F$ contains the same data as natural
transformation from $F$ to a constant functor. This means that they
capture all the structure of colimits, save for the universal property.
That too can be encoded, by asking that the cocone in question be
an [initial object].
```

File: src/Cat/Diagram/Colimit/Cocone.lagda.md [hunk 15]
```diff
@@ -0,0 +1,192 @@
...
+    colim .ψ = K .ψ
+    colim .commutes = K .commutes
+    colim .universal eta p = init (cocone _ eta p) .centre .hom
+    colim .factors eta p = init (cocone _ eta p) .centre .commutes _
+    colim .unique eta p other q =
+      ap hom (sym (init (cocone _ eta p) .paths (cocone-hom other q)))
+```
+
+The inverse direction of this equivalences also consists of moving
+data around.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Cocone.lagda.md:172]: I would honestly just mention this process is invertible and comment out the entire definition of `is-colimit→is-initial-cocone`

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 16]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+      {D : Precategory o₂ h₂}
+  → Functor C D → Type _
 ```
 
-Though functors must take cocones to cocones, they may not necessarily
-take colimiting cocones to colimiting cocones! When a functor does, we
-say that it _preserves_ colimits.
+A cocontinuous functor is one that --- for every shape of diagram `J`,
+and every diagram `diagram`{.Agda} of shape `J` in `C` --- preserves the
+colimit for that diagram.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:594]: I'm not a big fan of the em dashes here

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 17]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+  colimits→invertible
+    : C.is-invertible (Cx.universal Cy.ψ Cy.commutes)
+  colimits→invertible = colimits→invertiblep (Cx.factors Cy.ψ Cy.commutes)
+
+  colimits-unique : x C.≅ y
+  colimits-unique = C.invertible→iso _ colimits→invertible
 ```
 
+Furthermore, if the universal map is invertible, then that means its
+domain is _also_ a colimit of the diagram.
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:400]: This should also be proved in more generality

File: src/Cat/Diagram/Colimit/Base.lagda.md (hunk 10 above)
Comment (plt-amy) [reply src/Cat/Diagram/Colimit/Base.lagda.md:341]: All of this duplication really isn't making our case that working with the abstract definition is better..! We should have all of these lemmas for arbitrary `is-lan`, in a module about extensions.

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 18]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
+    → (∀ {x y} (f : J.Hom x y) → eps y C.∘ D.₁ f ≡ eps x)
+    → D => Const x
+  family→cocone eta p .η = eta
+  family→cocone eta p .is-natural _ _ _ = p _ ∙ sym (C.idl _)
 ```
 -->
 
-## Colimits
+```agda
+  is-invertible→is-colimitp
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:430]: This should also be proved in more generality

File: src/Cat/Diagram/Colimit/Base.lagda.md [hunk 19]
```diff
@@ -25,225 +29,576 @@ acts as a solution to an "equational problem".
...
 
-We now have all of the machinery in place! What remains is the
-universal property, which expresses that a _particular_ cocone
-is universal, in the sense that it has a _unique_ map to any other
-cocone. However, we already have something that captures this idea,
-it's the initial object! This leads to the following terse definition:
-A colimit over a diagram is an initial object in the category of
-cocones over that diagram.
+```agda
+  natural-iso→is-colimitp
```
Comment (plt-amy) [inline src/Cat/Diagram/Colimit/Base.lagda.md:461]: This should be also proved in more generality. Have a function that allows varying every argument of `is-lan` by a natural isomorphsim

File: src/Cat/Diagram/Coproduct/Indexed.lagda.md [hunk 20]
```diff
@@ -71,55 +73,71 @@ coproducts correspond to discrete diagrams of shape $I$.
...
+        ic.match eta
+      mc .factors eta p =
+        ic.commute
+      mc .unique eta p other q =
+        ic.unique eta q
+
+  is-colimit→is-indexed-coprduct
+    : ∀ {K : Functor ⊤Cat C}
+    → {eps : Disc-adjunct {iss = i-is-grpd} F => K F∘ !F}
+    → is-lan !F (Disc-adjunct F) K eps
```
Comment (plt-amy) [inline src/Cat/Diagram/Coproduct/Indexed.lagda.md:111]: Isn't this `is-colimit`?

File: src/Cat/Diagram/Duals.lagda.md [hunk 21]
```diff
@@ -198,52 +200,27 @@ module _ {o ℓ} {J : Precategory o ℓ} {F : Functor J C} where
...
-          (Cocone-hom→Co-cone-hom x)
-
-        g : _ → _
-        g x = subst (λ e → Cocone-hom F e _)
-          (Cocone→Co-cone→Cocone _)
-          (Co-cone-hom→Cocone-hom x)
-
-        fg : is-left-inverse f g
-        fg x = Cone-hom-path _ (transport-refl _ ∙ transport-refl _)
+  Colimit→Co-limit colim = to-limit (to-is-limit ml) where
```
Comment (plt-amy) [inline src/Cat/Diagram/Duals.lagda.md:203]: Isn't this redundant with Cat.Functor.Kan.Duality? Win, though

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 22]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+
+To motivate limits, note how all the above examples have roughly the
+same structure. They all consist of some object, a bunch of maps out
+of said object, some commuting conditions, and a universal property
+that states that we can construct unique maps into the object under
+certain conditions.
+
+Our first step towards making this vague intuition precise is to construct
+a mathematical widget that picks out a collection of objects, arrows,
+and commutation conditions in a category. This is required to describe
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:35]:
```suggestion
and commutativity conditions in a category. This is required to describe
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 23]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+be a good idea to check out those pages before continuing!
+
+[terminal objects]: Cat.Diagram.Terminal.html
+[products]: Cat.Diagram.Product.html
+[equalisers]: Cat.Diagram.Equaliser.html
+[pullbacks]: Cat.Diagram.Pullback.html
+
+To motivate limits, note how all the above examples have roughly the
+same structure. They all consist of some object, a bunch of maps out
+of said object, some commuting conditions, and a universal property
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:29]:
```suggestion
of said object, some commutativity conditions, and a universal property
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 24]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+consists of a pair of objects; these diagrams correspond to functors
+out of the category with 2 objects and only identity morphisms.
+Equalisers are defined over a diagram that consists of a pair of parallel
+morphisms; such diagrams are given by functors out of the aforementioned
+parallel arrows category. Pullbacks defined over a diagram of the shape,
+$\bullet \to \bullet \leftarrow \bullet$; again, these diagrams are
+given by functors out of the category with that exact shape. Terminal
+objects may seem to break this trend, but we can think of them as
+being defined over the empty diagram, which is given by functors out
+of the category with no objects.
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:72]:
```suggestion
being defined over the empty diagram, the unique functor from
the category with no objects.
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 25]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+  \arrow["{!X}"', from=1-3, to=3-5]
+  \arrow[""{name=0, anchor=center, inner sep=0}, from=3-1, to=3-5]
+  \arrow["\eta"{description}, shorten <=4pt, shorten >=4pt, Rightarrow, from=1-3, to=0]
+\end{tikzcd}
+~~~
 
-## Products
+All that remains is the universal property. If we translate this into
+our existing machinery, that means that $!x$ must be the universal
+functor equipped with natural transformation $\eta$; that is, for
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:117]:
```suggestion
functor equipped with a natural transformation $\eta$; that is, for
```

Write out eta's type, too?

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 26]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+any other $K : \top \to \cC$ equipped with $\tau : K \circ \to D$, we
+have a unique natural transformation $\sigma : K \to !x$ that factorises
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:119]:
```suggestion
have a unique natural transformation $\sigma : K \to !x$ that factors
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 27]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+$\tau$. This is a bit of a mouthful, so lets look at a diagram instead.
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:120]:
```suggestion
$\tau$. This is a bit of a mouthful, so let's look at a diagram instead.
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 28]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+  \arrow[""{name=2, anchor=center, inner sep=0}, "K", curve={height=-18pt}, from=1-3, to=3-5]
+  \arrow["\eta"{description}, shorten <=4pt, shorten >=4pt, Rightarrow, from=1-3, to=1]
+  \arrow["\sigma", shorten <=3pt, shorten >=3pt, Rightarrow, from=2, to=0]
+\end{tikzcd}
+~~~
 
-[`Cat.Diagram.Product`]: Cat.Diagram.Product.html
+We might be tempted to stop here and call it a day, but we can go one
+step further. It turns out that these universal functors have a name:
+they are [right kan extensions]. This allows for an extremely concise
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:138]:
```suggestion
they are [right Kan extensions]. This allows for an extremely concise
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 29]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+definition of limits: $x : \cC$ is the limit of a diagram
+$D : \cJ \to \cC$ when the constant functor $!x : \top \to \cC$ is
+a right kan extension of $! : \cJ \to \top$ along $D$.
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:141]:
```suggestion
a right Kan extension of $! : \cJ \to \top$ along $D$.
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 30]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
 
-Consider a _discrete_ diagram - one that has no interesting morphisms,
-only identities, such as the collection of objects below.
+[right kan extensions]: Cat.Functor.Kan.Right.html
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:143]:
```suggestion
[right Kan extensions]: Cat.Functor.Kan.Right.html
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 31]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+      C.elimr (M .F-id) ∙ sym (C.idl _)
+    lim' .σ-comm = Nat-path λ j →
+      lim .σ-comm ηₚ j
+    lim' .σ-uniq {M = M} {β = β} {σ′ = σ′} p = Nat-path λ _ →
+      lim .σ-uniq {β = β} {σ′ = σ″} (Nat-path (p ηₚ_)) ηₚ tt
+      where
+        σ″ : M => K
+        σ″ .η = σ′ .η
+        σ″ .is-natural _ _ _ =
+          σ′ .is-natural _ _ _ ∙ ap (C._∘ _) (sym (K .F-id))
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:332]: This can go, right?

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 32]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+  apex = Ext.₀ tt
 ```
 
-For every map $f : x \to y$ in the indexing category, we require that
-the diagram below commutes. This encompasses "everything" since the only
-non-trivial composites that can be formed with the data at hand are of
-the form $F(f) \circ \psi_x$.
+Furthermore, we can show that the apex is the limit, in the sense of
+`is-limit`{.Agda}, of the diagram. You'd think this is immediate, but
+unfortunately proof assistants: `is-limit`{.Agda} asks for _the_
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:453]:
```suggestion
unfortunately, proof assistants: `is-limit`{.Agda} asks for _the_
```

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 33]
```diff
@@ -11,371 +14,723 @@ module Cat.Diagram.Limit.Base where
...
+      nt .η = σ′ .η
+      nt .is-natural x y f = σ′ .is-natural x y f ∙ ap (C._∘ _) (sym $ Ext .F-id)
+
+  open is-limit has-limit public
 ```
 
-These non-trivial composites consist of following the left leg of the
-diagram below, followed by the bottom leg. For it to commute, that path
-has to be the same as following the right leg.
+# Uniqueness
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:482]: Similar comments about duplication with Kan extension stuff for colimits also applies here

File: src/Cat/Diagram/Limit/Base.lagda.md [hunk 34]
```diff
@@ -387,18 +742,28 @@ object! Any limit is as good as any other.
...
-  Reflects-limit : Cone Dia → Type _
-  Reflects-limit K = is-limit (F F∘ Dia) (F-map-cone K) → is-limit Dia K
+  reflects-limit : Type _
+  reflects-limit =
+    ∀ {K : Functor ⊤Cat C} {eps : K F∘ !F => Diagram}
+    → (ran : is-ran !F (F F∘ Diagram) (F F∘ K) (nat-assoc-from (F ▸ eps)))
+    → reflects-ran F ran
 ```
 
 ## Creation of limits
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Base.lagda.md:769]: Let's delete this before merging and open an issue to define it again.

File: src/Cat/Diagram/Limit/Equaliser.lagda.md [hunk 35]
```diff
@@ -30,58 +29,76 @@ We establish the correspondence between `Equaliser`{.Agda} and the
...
-    where
-      other : Cone-hom _ _ _
-      other .hom = _
-      other .commutes false = sym x
-      other .commutes true = sym (
-        F .F₁ false ∘ e'                      ≡⟨ ap (_ ∘_) x ⟩
-        F .F₁ false ∘ lim.top .ψ false ∘ lim' ≡⟨ pulll (lim.top .commutes false) ⟩
-        lim.top .ψ true ∘ lim'                ∎
-        )
+Limit→Equaliser : ∀ {a b} {f g : Hom a b} → Limit (Fork {C = C} f g) → Equaliser C f g
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Equaliser.lagda.md:99]: I'm concerned about moving the functor to `Limit`. It's not the case that every functor from the parallel pair is a Fork definitionally, whereas the old type applied to any functor

File: src/Cat/Diagram/Limit/Finite.lagda.md [hunk 36]
```diff
@@ -61,8 +62,8 @@ to give a terminal object and binary products.
   record Finitely-complete : Type (ℓ ⊔ ℓ') where
     field
       terminal   : Terminal C
-      products   : ∀ A B → Product C A B
-      equalisers : ∀ {A B} (f g : Hom A B) → Equaliser C f g
+      products   : has-products C
+      equalisers : has-equalisers C
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Finite.lagda.md:66]: Win!

File: src/Cat/Diagram/Limit/Pullback.lagda.md [hunk 37]
```diff
@@ -85,3 +86,19 @@ Limit→Pullback {F = F} lim = pb where
         F .F₁ {cs-a} {cs-c} _ ∘ lim.top .ψ cs-a ∘ lim' ≡⟨ ap (_ ∘_) a ⟩
         F .F₁ {cs-a} {cs-c} _ ∘ p₁'                    ∎
 ```
+
+<!--
+```agda
+Limit→Pullback
+  : ∀ {x y}
+  → {F : Functor (·→·←· {x} {y}) Cat}
```
Comment (plt-amy) [inline src/Cat/Diagram/Limit/Pullback.lagda.md:94]: I love how we have a category called 👉👈 (edit: don't mind me, I'm just tired)

File: src/Cat/Diagram/Monad/Limits.lagda.md [hunk 38]
```diff
@@ -125,107 +126,48 @@ pre-existence of a cone $K$. In fact, what we have shown is that
 is that it reflects limit _objects_, too: if $U \circ F$ has a limit,
 then so does $F$.
 
+Using our lemma from before, it suffices to show that the apex of the
+limit has the structure of an algebra.
+
 ```agda
-  Forget-lift-limit : Limit (Forget _ M F∘ F) → Limit F
+  Forget-lift-limit : Limit (Forget C M F∘ F) → Limit F
```
Comment (plt-amy) [inline src/Cat/Diagram/Monad/Limits.lagda.md:133]: Can this have more comments?

Comment (plt-amy) [reply src/Cat/Diagram/Monad/Limits.lagda.md:133]: Also, research question: is this an instance of a more general fact about Kan extensions?

File: src/Cat/Diagram/Product.lagda.md [hunk 39]
```diff
@@ -134,133 +143,109 @@ We construct the map $P \to P'$ as the pairing of the projections from
...
-             → other ≡ ⟨ p1 , p2 ⟩
-  ⟨⟩-unique = hasprods _ _ .has-is-product .is-product.unique
+```agda
+  δ : Hom a (a ⊗₀ a)
+  δ = ⟨ id , id ⟩
 
-  ⟨⟩-η : ∀ {A B} → ⟨ π₁ , π₂ ⟩ ≡ id {A ⊗ B}
-  ⟨⟩-η = sym $ ⟨⟩-unique id (idr π₁) (idr π₂)
+  swap : Hom (a ⊗₀ b) (b ⊗₀ a)
+  swap = ⟨ π₂ , π₁ ⟩
```
Comment (plt-amy) [inline src/Cat/Diagram/Product.lagda.md:250]: Great changes in this module all around

File: src/Cat/Diagram/Product.lagda.md [hunk 40]
```diff
@@ -134,133 +143,109 @@ We construct the map $P \to P'$ as the pairing of the projections from
...
-[bifunctor]: Cat.Functor.Bifunctor.html
+Categories with all binary products are quite common, so we define
+a module for working with them.
 
 ```agda
-module Cartesian (hasprods : ∀ A B → Product A B) where
+has-products : Type _
+has-products = ∀ a b → Product a b
+
+module BinaryProducts (all-products : has-products) where
```
Comment (plt-amy) [inline src/Cat/Diagram/Product.lagda.md:207]: `Binary-products` though

File: src/Cat/Diagram/Product/Indexed.lagda.md [hunk 41]
```diff
@@ -96,56 +97,68 @@ sets, and so the `Disc`{.Agda} construction does not apply to it.
...
+      ml .commutes {i} {j} p =
+        J (λ j p → subst (C.Hom (F i) ⊙ F) p C.id C.∘ π i ≡ π j)
+          (C.eliml (transport-refl _))
+          p
+      ml .universal eta p =
+        ip.tuple eta
+      ml .factors eta p =
+        ip.commute
+      ml .unique eta p other q =
+        ip.unique eta q
```
Comment (plt-amy) [inline src/Cat/Diagram/Product/Indexed.lagda.md:131]: These don't need to be broken up like this. Also in the indexed coproduct module

File: src/Cat/Functor/Adjoint/Continuous.lagda.md [hunk 42]
```diff
@@ -46,148 +53,108 @@ then instantiate this theorem to the "canonical" shapes of limit:
...
 
 ## Concrete limits
 
-For establishing the preservation of "concrete limits", in addition to
-the preexisting conversion functions (`Lim→Prod`{.Agda},
-`Limit→Pullback`{.Agda}, `Limit→Equaliser`{.Agda}, etc.), we must
-establish results analogous to `canonical-functors`{.Agda}: Functors out
-of shape categories are entirely determined by the "introduction forms"
-`cospan→cospan-diagram`{.Agda} and `par-arrows→par-diagram`{.Agda}.
+We now show that adjoint functors preserve "concrete limits". We could
```
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/Continuous.lagda.md:85]: Yup, good change

File: src/Cat/Functor/Adjoint/Kan.lagda.md [hunk 43]
```diff
@@ -0,0 +1,213 @@
...
+Let $L \adj R$ be a pair of [adjoint functors]. It's well-known that
+[right adjoints preserve limits], and dually that left adjoints preserve
+colimits, but it turns out that this theorem can be made a bit more
+general: If $G$ is a [left] (resp. [right]) extension of $F$ along
+$p$, then $LG$ is a left extension of $LF$ along $p$: left adjoints
+preserve left extensions. This dualises to right adjoints preserving
+_right_ extensions.
+
+[adjoint functors]: Cat.Functor.Adjoint.html
+[right adjoints preserve limits]: Cat.Functor.Adjoint.Continuous.html
```
Comment (plt-amy) [inline src/Cat/Functor/Adjoint/Kan.lagda.md:27]: Maybe we should link to a _different_ proof, since our proof of rapl just links back here

File: src/Cat/Functor/Dense.lagda.md [hunk 44]
```diff
@@ -50,11 +49,12 @@ module
 -->
 
 ```agda
+  dense-cone : ∀ d → F F∘ Dom F (const! d) => Const d
+  dense-cone d .η x = x .map
+  dense-cone d .is-natural _ _ f = f .sq
```
Comment (plt-amy) [inline src/Cat/Functor/Dense.lagda.md:54]: This is a cocone, surely?

File: src/Cat/Functor/Hom/Cocompletion.lagda.md [hunk 45]
```diff
@@ -75,14 +87,64 @@ of Kan extensions.
 [left Kan extension]: Cat.Functor.Kan.html
 
 ```agda
```
Comment (plt-amy) [inline src/Cat/Functor/Hom/Cocompletion.lagda.md:89]: More comments!

File: src/Cat/Functor/Hom/Cocompletion.lagda.md [hunk 46]
```diff
@@ -75,14 +87,64 @@ of Kan extensions.
...
+    sym $ colim.unique _ _ _ _ λ j →
+      D.idl _
+  extend .F-∘ f g =
+    sym $ colim.unique _ _ _ _ λ j →
+      D.pullr (colim.factors _ _ _)
+      ∙ colim.factors _ _ _
 
-extend-factors : (F : Functor C D) → (extend F F∘ よ C) ≅ F
-extend-factors F = ff-lan-ext colim (よ C) F (よ-is-fully-faithful C)
+  lan : Lan (よ C) F
```
Comment (plt-amy) [inline src/Cat/Functor/Hom/Cocompletion.lagda.md:118]: comments here too!

File: src/Cat/Functor/Kan/Adjoint.lagda.md [hunk 47]
```diff
@@ -0,0 +1,87 @@
...
+    M.₁ (counit.ε _) C.∘ α.η _                ≡⟨ ap (_ C.∘_) (p ηₚ _) ⟩
+    M.₁ (counit.ε _) C.∘ σ' .η _ C.∘ unit.η _ ≡⟨ C.extendl (sym (σ' .is-natural _ _ _)) ⟩
+    σ' .η _ C.∘ G.₁ (counit.ε _) C.∘ unit.η _ ≡⟨ C.elimr zag ⟩
+    σ' .η x                                   ∎
+    where module α = _=>_ α
+          module M = Func M
+```
+
+As expected, adjoints also yield right kan extensions.
+[TODO: Reed M, 05/02/2023] Finish this!
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Adjoint.lagda.md:87]: [TODO: Reed M, 05/02/2023] Finish this!

File: src/Cat/Functor/Kan/Duality.lagda.md [hunk 48]
```diff
@@ -0,0 +1,94 @@
...
+-->
+
+```agda
+  Co-lan→Ran : Lan (Functor.op p) (Functor.op F) → Ran p F
+  Co-lan→Ran lan .Ext     = Functor.op (lan .Ext)
+  Co-lan→Ran lan .eps     = co-unit→counit (lan .eta)
+  Co-lan→Ran lan .has-ran = is-co-lan→is-ran (lan .has-lan)
+```
+
+<!-- [TODO: Reed M, 05/02/2023] Opposite direction of duality. -->
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Duality.lagda.md:94]: [TODO: Reed M, 05/02/2023] Opposite direction of duality.

File: src/Cat/Functor/Kan/Nerve.lagda.md [hunk 49]
```diff
@@ -77,131 +80,178 @@ X)$.
...
-  Nerve F .F₀ x .F-∘ f g = funext λ x → C.pushr (F .F-∘ _ _)
+    Nerve : Functor D (PSh κ C)
+    Nerve .F₀ c = Hom-into D c F∘ Functor.op F
+    Nerve .F₁ f = よ₁ D f ◂ (Functor.op F)
+    Nerve .F-id = Nat-path (λ _ → funext λ _ → D.idl _)
+    Nerve .F-∘ _ _ = Nat-path (λ _ → funext λ _ → sym (D.assoc _ _ _))
+```
+
+Furthermore, the nerve is a left kan extension along the yoneda
+embedding.
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Nerve.lagda.md:103]: This deserves a diagram

File: src/Cat/Functor/Kan/Nerve.lagda.md [hunk 50]
```diff
@@ -77,131 +80,178 @@ X)$.
...
-  Nerve F .F₁ f .η _ g            = f C.∘ g
-  Nerve F .F₁ _ .is-natural _ _ _ = funext λ _ → C.assoc _ _ _
+<!--
+```agda
+    coapprox : よ C => Nerve F∘ F
+    coapprox .η x .η y f = F.F₁ f
+    coapprox .η x .is-natural _ _ _ =
+      funext λ _ → F.F-∘ _ _
+    coapprox .is-natural _ _ _ =
+      Nat-path λ _ → funext λ _ → F.F-∘ _ _
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Nerve.lagda.md:112]: I think this is an interesting definition, could we comment on it?

File: src/Cat/Functor/Kan/Nerve.lagda.md [hunk 51]
```diff
@@ -77,131 +80,178 @@ X)$.
...
+    Nerve-is-lan : is-lan F (よ C) Nerve coapprox
+    Nerve-is-lan .σ {M = M} α .η d .η c f =
+      M .F₁ f .η c (α .η c .η c C.id)
+```
 
-  Nerve F .F-id    = Nat-path λ _ → funext λ _ → C.idl _
-  Nerve F .F-∘ f g = Nat-path λ _ → funext λ _ → sym (C.assoc _ _ _)
+<details>The remainder of the proof follows by applying naturality 10000
+times, and is not very interesting.
+<summary>
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Nerve.lagda.md:124]:
```suggestion
<summary>

```

File: src/Cat/Functor/Kan/Nerve.lagda.md [hunk 52]
```diff
@@ -77,131 +80,178 @@ X)$.
...
-                {x = hom′ A (o .x) (o .map .η (o .x) D.id)}
-                (↓Obj-path _ _ _ refl (Nat-path λ x → funext λ _ →
-                  sym (o .map .is-natural _ _ _ $ₚ _) ∙ ap (o .map .η x) (D.idl _))))
-        (cocone-hom _ λ o → C.idl _)
-
-    adj .zag {B} = Nat-path λ x → funext λ a →
-        cocompl (F F∘ Dom (よ D) (const! (Nerve F .F₀ B))) .has⊥ (cocone′ B)
-          .centre .commutes (hom′ _ x a)
-      ∙ F.elimr refl
+    adj : Realisation F cocompl ⊣ Nerve F
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Nerve.lagda.md:210]: It's nice that the proof is shorter but I'm a bit miffed about having lost that paragraph describing the unit and counit

File: src/Cat/Functor/Kan/Pointwise.lagda.md [hunk 53]
```diff
@@ -0,0 +1,146 @@
...
+open import Cat.Functor.Kan.Base
+open import Cat.Prelude
+
+import Cat.Reasoning
+import Cat.Functor.Reasoning as Func
+
+module Cat.Functor.Kan.Pointwise where
+```
+
+# Pointwise Kan Extensions
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Pointwise.lagda.md:18]: Comment here

File: src/Cat/Functor/Kan/Pointwise.lagda.md [hunk 54]
```diff
@@ -0,0 +1,146 @@
...
+    open Func
+    open ↓Obj
+    open ↓Hom
+    open _=>_
+    open Lan
+    open is-lan
+```
+-->
+
+```agda
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Pointwise.lagda.md:41]: Nasty construction definitely needs comments

File: src/Cat/Functor/Kan/Pointwise.lagda.md [hunk 55]
```diff
@@ -0,0 +1,146 @@
...
+      lan .has-lan .σ-uniq {M = M} {α = α} {σ′ = σ′} p = Nat-path λ c' →
+        sym $ ↓colim.unique _ _ _ _ λ j →
+          σ′ .η c' D.∘ ↓colim.ψ c' j                                ≡⟨ ap (λ ϕ → σ′ .η c' D.∘ ↓colim.ψ c' ϕ) (↓Obj-path _ _ refl refl (sym (C'.idr _))) ⟩
+          (σ′ .η c' D.∘ ↓colim.ψ c' (↓obj (j .map C'.∘ C'.id)))     ≡⟨ D.pushr (sym $ ↓colim.factors _ _ _) ⟩
+          (σ′ .η c' D.∘ ↓colim.universal _ _ _) D.∘ ↓colim.ψ _ _    ≡⟨ D.pushl (σ′ .is-natural _ _ _) ⟩
+          M .F₁ (j .map) D.∘ (σ′ .η _ D.∘ ↓colim.ψ _ (↓obj C'.id))  ≡˘⟨ (D.refl⟩∘⟨ (p ηₚ j .x)) ⟩
+          M .F₁ (j .map) D.∘ α .η (j .x)                            ∎
+```
+
+```agda
```
Comment (plt-amy) [inline src/Cat/Functor/Kan/Pointwise.lagda.md:108]: Even more comments here

File: src/Cat/Instances/Functor/Limits.lagda.md [hunk 56]
```diff
@@ -63,177 +61,62 @@ limits.
...
-      hom' {x} .commutes o = h .commutes o ηₚ _ ∙ C.introl F′.second-id
+    !-for : ∀ {x y} (f : E.Hom x y) → C.Hom (D-lim.apex x) (D-lim.apex y)
+    !-for {x} {y} f =
+      D-lim.universal y
+        (λ j → F′.Right j .F₁ f C.∘ D-lim.ψ x j)
+        (λ g →
+          C.extendl F′.first∘second
+          ∙ ap₂ C._∘_ refl (D-lim.commutes x g))
+
+    functor-apex : Functor E C
```
Comment (plt-amy) [inline src/Cat/Instances/Functor/Limits.lagda.md:80]: This is a lot shorter but it needs comments too

File: src/Cat/Instances/Shape/Initial.lagda.md [hunk 57]
```diff
@@ -0,0 +1,42 @@
...
+
+The **initial category** is the category with no objects.
+
+```agda
+⊥Cat : Precategory lzero lzero
+⊥Cat .Ob = ⊥
+⊥Cat .Hom _ _ = ⊥
+```
+
+This category is notable, as there exists a unique functor from
```
Comment (plt-amy) [inline src/Cat/Instances/Shape/Initial.lagda.md:23]:
```suggestion
This category is notable for the existence of a unique functor from
```

File: src/Cat/Reasoning.lagda.md [hunk 58]
```diff
@@ -51,11 +51,17 @@ module _ (a≡id : a ≡ id) where abstract
...
+  elim-inner : f ∘ a ∘ g ≡ f ∘ g
+  elim-inner {f = f} = ap (f ∘_) eliml
+
   introl : f ≡ a ∘ f
   introl = sym eliml
 
   intror : f ≡ f ∘ a
   intror = sym elimr
+
+  intro-inner : f ∘ g ≡ f ∘ a ∘ g
```
Comment (plt-amy) [inline src/Cat/Reasoning.lagda.md:63]: Maybe not those letters LMAO

File: src/Cat/Diagram/Coproduct/Indexed.lagda.md [hunk 59]
```diff
@@ -71,55 +73,71 @@ coproducts correspond to discrete diagrams of shape $I$.
...
+      mc .commutes {i} {j} p =
+        J (λ j p → inj j C.∘ subst (C.Hom (F i) ⊙ F) p C.id ≡ inj i)
+          (C.elimr (transport-refl C.id))
+          p
+      mc .universal eta p =
+        ic.match eta
+      mc .factors eta p =
+        ic.commute
+      mc .unique eta p other q =
+        ic.unique eta q
```
Comment (plt-amy) [inline src/Cat/Diagram/Coproduct/Indexed.lagda.md:106]: I left a comment on the indexed product module too but these could be on the same line

**Review by plt-amy — CHANGES_REQUESTED** [review]

File: src/Cat/Abelian/Base.lagda.md [hunk 60]
```diff
@@ -254,7 +254,7 @@ comultiplication.
 ```
 
 For uniqueness, we use distributivity of composition over addition of
-morphisms and the universal property of the product to establish the
+morphisms and the factors property of the product to establish the
```
[the remark this answers is not in the document]
Comment (TOTBWF) [reply src/Cat/Abelian/Base.lagda.md:257]: whoops 🙃

File: src/Cat/Diagram/Coend/Formula.lagda.md [hunk 61]
```diff
@@ -52,24 +50,23 @@ module _ (F : Functor (C ^op ×ᶜ C) D) where
...
-    W .ψ a D.∘ Bifunctor.second F (Twist.before h C.∘ g) D.∘ Bifunctor.second F (Twist.after h) ≡⟨ D.refl⟩∘⟨ sym (Bifunctor.second∘second F) ∙ ap (Bifunctor.second F) (h .Twist.commutes) ⟩
-    W .ψ a D.∘ Bifunctor.second F f                                                             ∎
+    open _=>_
+
+  cocone→cowedge : ∀ {x} → twistᵒᵖ F => Const x → Cowedge F
+  cocone→cowedge eta .nadir = _
+  cocone→cowedge eta .ψ c = eta .η ((c , c) , C.id)
+  cocone→cowedge eta .extranatural f =
+    eta .is-natural _ _ (twist _ _ (C.eliml (C.idl _)))
+    ∙ (sym $ eta .is-natural _ _ (twist _ _ (C.cancelr (C.idl _))))
```
[the remark this answers is not in the document]
Comment (TOTBWF) [reply src/Cat/Diagram/Coend/Formula.lagda.md:60]: I can resurrect it; was just trying to get things to compile at this point

[the remark this answers is not in the document]
Comment (plt-amy) [reply src/Cat/Diagram/Coend/Formula.lagda.md:60]: love me some necromancy

File: src/Cat/Functor/Adjoint/Kan.lagda.md (hunk 43 above)
Comment (TOTBWF) [reply src/Cat/Functor/Adjoint/Kan.lagda.md:27]: Lmao yeah that's a good call

File: src/Cat/Reasoning.lagda.md (hunk 58 above)
Comment (TOTBWF) [reply src/Cat/Reasoning.lagda.md:63]: 😬

File: support/nix/build-shake.nix [hunk 62]
```diff
@@ -51,7 +51,6 @@ stdenv.mkDerivation {
   remove-references-to -t ${haskellPackages.js-flot}      ${main}
   remove-references-to -t ${haskellPackages.js-jquery}    ${main}
   remove-references-to -t ${haskellPackages.js-dgtable}   ${main}
-  upx ${main}
```
Comment (TOTBWF) [inline support/nix/build-shake.nix:54]: This is required to get things working on OSX with nix

File: src/Cat/Diagram/Colimit/Base.lagda.md (hunk 10 above)
Comment (TOTBWF) [reply src/Cat/Diagram/Colimit/Base.lagda.md:350]: Done!

File: src/Cat/Diagram/Coproduct/Indexed.lagda.md (hunk 20 above)
Comment (TOTBWF) [reply src/Cat/Diagram/Coproduct/Indexed.lagda.md:111]: No, `eps` isn't derived from `cocone→unit cocone` so this is slightly more general.

File: src/Cat/Diagram/Duals.lagda.md (hunk 21 above)
Comment (TOTBWF) [reply src/Cat/Diagram/Duals.lagda.md:203]: Unfortunately, proof assistants. `Functor.op !F` is not defeq to `!F`, so it's less tedious to do it this way.

File: src/Cat/Diagram/Monad/Limits.lagda.md (hunk 38 above)
Comment (ncfavier) [reply src/Cat/Diagram/Monad/Limits.lagda.md:133]: [Certainly looks like it!](https://github.com/ncfavier/1lab/commit/1950658dce72591d30b1a22f2a590b8067d3b54b#diff-6d00dd9cd17f3a9a0daf92792d2beb98ccfc28e8f381ec8dcb6adb04eebd96bf) The remaining holes should be pretty straightforward, but I'm done for today.

Natural transformations are *really annoying* to work with, but maybe I just don't know how (transports don't seem to compute?)

**Review by plt-amy — DISMISSED** [review]
